US05597845
(S)-N-Benzyl-N-methyl-2-[[(S)-2-(1H-indol-3-yl)-1-carboxymethyl-ethylamino]-N'-(t-butoxycarbonyl)-propylamino]-3-phenyl-propionamide
Prepare by the method of Example 1 using (S)-N-benzyl-N-methyl-2-[N'-(t-butoxycarbonyl)-3-oxo-propylamino]-3-phenyl-propionamide (2 mmol) and (S)-2-(1H-indol-3-yl)-1-carboxymethyl-ethylamine hydrochloride salt ((S)-tryptophan methyl ester hydrochloride salt) (2 mmol). Purify by chromatography to give the title compound.

reactant | (S)-N-benzyl-N-methyl-2-[N'-(t-butoxycarbonyl)-3-oxo-propylamino]-3-phenyl-propionamide | 2 mmol | C(C1=CC=CC=C1)N(C([C@H](CC1=CC=CC=C1)N(C(=O)OC(C)(C)C)CCC=O)=O)C | C25H32N2O4
reactant | (S)-2-(1H-indol-3-yl)-1-carboxymethyl-ethylamine hydrochloride salt | 2 mmol | Cl.N1C=C(C2=CC=CC=C12)C[C@@H](CC(=O)O)N
product | (S)-N-Benzyl-N-methyl-2-[[(S)-2-(1H-indol-3-yl)-1-carboxymethyl-ethylamino]-N'-(t-butoxycarbonyl)-propylamino]-3-phenyl-propionamide | C(C1=CC=CC=C1)N(C([C@H](CC1=CC=CC=C1)N(C(=O)OC(C)(C)C)CCCN[C@@H](CC1=CNC2=CC=CC=C12)CC(=O)O)=O)C | C37H46N4O5
